US07351719B2
Z45b) 3-(2-chloro-4-nitro-phenyl)-propan-1-ol
A suspension of 1.25 g (6.808 mmol) 3-(2-chloro-4-nitro-phenyl)-prop-2-yn-1-ol and 1.00 g Raney nickel in 50 mL THF was hydrogenated for 12 h at RT and 25 psi hydrogen pressure. The catalyst was filtered off and the filtrate was evaporated down i. vac.

reactant | 3-(2-chloro-4-nitro-phenyl)-prop-2-yn-1-ol | 6.808 mmol, 1.25 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C#CCO | C9H6ClNO3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1.00 g | [Ni] | Ni
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(2-chloro-4-nitro-phenyl)-propan-1-ol | ClC1=C(C=CC(=C1)[N+](=O)[O-])CCCO | C9H10ClNO3
